US04350826
A mixture of sodium p-hydroxymandelate monohydrate (1.04 g.), ammonium acetate (2.0 g.) and water (0.5 ml.) is stirred and heated under reflux (internal temperature 125° C.) for 2.5 hours. Water (3 ml.) is added to the thick slurry thus obtained, the mixture is cooled and filtered and the solid residue is washed twice with water and then with acetone. There is thus obtained p-hydroxyphenylglycine (0.56 g., 66% yield).

reactant | sodium p-hydroxymandelate monohydrate | 1.04 g | O.OC1=CC=C(C(C(=O)[O-])O)C=C1.[Na+]
reactant | ammonium acetate | 2.0 g | C(C)(=O)[O-].[NH4+]
solvent | Water | 3 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | p-hydroxyphenylglycine | 0.56 g, 66% yield | OC1=CC=C(C=C1)NCC(=O)O | C8H9NO3
